US05001233
Preparation of 1-hydroxy-2.2,5,5-tetramethyl-pyrroline-3-carboxamide
A solution of 0.066 M DMD in acetone (9 ml, 0.59 mmol) was added to a cold stirred solution of 2,2,5,5-tetramethyl-pyrroline-3-carboxamide (Frinton, Vineland NJ, 100 mg, 0.59 mmol) in acetone (5 ml). The mixture was stirred for two hours. Evaporation of the solvent on a rotary evaporator gave a colorless crystalline solid which was dried in vacuo for 6 hours. Sublimation of the solid at 10-3 torr gave a white solid, mp 65-171.

reactant | 2,2,5,5-tetramethyl-pyrroline-3-carboxamide | 0.59 mmol, 100 mg | CC1(NC(CC1C(=O)N)(C)C)C | C9H18N2O
reactant | acetone | 5 ml | CC(=O)C | C3H6O
reactant | acetone | 0.59 mmol, 9 ml | CC(=O)C | C3H6O
product | 1-hydroxy-2.2,5,5-tetramethyl-pyrroline-3-carboxamide | ON1C(C(CC1(C)C)C(=O)N)(C)C | C9H18N2O2
